US04810806
A solution of 23.5 g (0.25 mol) of phenol in 50 mL of DMSO was added dropwise to a stirred suspension of 12.0 g (0.25 mol) of 50% NaH in mineral oil in 100 mL of DMSO maintained at 15°-20° by cooling. After evolution of gas had slowed, cooling and stirring were continued while 44.3 g (0.25 mol) of 2-chloroethyl trifluoroacetate were added. The temperature of the reaction mixture was kept below 30° while the exotherm which occurred subsided, then the resulting mixture was stirred overnight, poured into 1 L of water, and extracted with 200 mL, then two 100 mL portions, of ether. The resulting ether solutions were washed with water, dried over CaSO4, and distilled to give 27.6 g (47% yield) of 2-phenoxy-2-trifluoromethyl-1,3-dioxolane, b.p. 52°-54° at 80 Pa (0.6 mm). IR (neat) and NMR (CCl4) spectra were consistent with the assigned structure.

reactant | phenol | 0.25 mol, 23.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 0.25 mol, 12.0 g | [H-].[Na+]
reactant | 2-chloroethyl trifluoroacetate | 0.25 mol, 44.3 g | FC(C(=O)OCCCl)(F)F | C4H4ClF3O2
reactant | water | 1 L | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-phenoxy-2-trifluoromethyl-1,3-dioxolane | 27.6 g, 47% yield | O(C1=CC=CC=C1)C1(OCCO1)C(F)(F)F | C10H9F3O3
